US09238644B2
(f) tert-Butyl 4-(4-((4-(2-(1-(methoxycarbonyl)cyclobutyl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate (A55)
Pd/C 10% (40 mg) was added to a solution of tert-butyl 4-(4-((4-((2-(1-(methoxycarbonyl)cyclobutyl)phenyl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate A54 (33 mg, 0.052 mmol) in EtOAc (10 mL) and Et3N (0.5 mL). The mixture was stirred under a hydrogen atmosphere overnight and then filtered through Celite. The filter cake was washed with EtOAc (50 mL) and the volatiles were removed in vacuo to give the title compound A55 as a yellow oil (31 mg, 93%). LCMS-A: rt 8.013 min; m/z 639.3 [M+H]+.

reactant | tert-butyl 4-(4-((4-((2-(1-(methoxycarbonyl)cyclobutyl)phenyl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate | COC(=O)C1(CCC1)C1=C(C=CC=C1)C#CC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C35H37F3N4O4
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
solvent | Et3N | 0.5 mL | CCN(CC)CC | C6H15N
catalyst | Pd/C | 40 mg | [Pd] | Pd
product | tert-Butyl 4-(4-((4-(2-(1-(methoxycarbonyl)cyclobutyl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate | COC(=O)C1(CCC1)C1=C(CCC2=NC(=NC=C2C(F)(F)F)NC2=CC=C(C=C2)C2CCN(CC2)C(=O)OC(C)(C)C)C=CC=C1 | C35H41F3N4O4
